US08865726B2
To a sealed tube was added (S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-5-isopropylimidazolidin-2-one (1.50 g, 4.63 mmol), 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole (2.51 g, 6.25 mmol), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (XPHOS) (0.221 g, 0.463 mmol) and Pd2 dba3 (0.212 g, 0.231 mmol), dioxane (39 mL) and sodium carbonate (2.0 M solution in water) (6.9 mL, 14 mmol) were added. The reaction mixture was heated to 80° C. overnight under nitrogen. After cooling, the reaction mixture was partitioned between EtOAc and water, and the aqueous layer was extracted once with EtOAc. The combined organic layers were washed with saturated aqueous sodium bicarbonate, brine, dried and concentrated in vacuo. The residue was purified by chromatography using EtOAc as eluent to give (S)-5-isopropyl-1-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-2-one (1.35 g, 56%) as a yellow solid.

reactant | (S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-5-isopropylimidazolidin-2-one | 4.63 mmol, 1.50 g | BrC=1C=NN2C1N=C(C=C2)N2C(NC[C@@H]2C(C)C)=O | C12H14BrN5O
reactant | 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole | 6.25 mmol, 2.51 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=NN(C=N1)COCC[Si](C)(C)C)C | C20H32BN3O3Si
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.463 mmol, 0.221 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | sodium carbonate | 14 mmol, 2.0 M, 6.9 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd2 dba3 | 0.231 mmol, 0.212 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 39 mL | O1CCOCC1 | C4H8O2
product | (S)-5-isopropyl-1-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-2-one | 1.35 g, 56% | C(C)(C)[C@H]1CNC(N1C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)=O | C26H34N8O2Si
